US07173038B1
Triphenylphosphine (2.19 g, 8.36 mmol) was added to a suspension of 4-(2-fluoro-4-methylanilino)-7-hydroxy-6-methoxyquinazoline (1 g, 3.34 mmol) in methylene chloride (10 ml) cooled at 0° C., followed by 1-(tert-butoxycarbonyl)-4-hydroxymethylpiperidine (1.08 g, 5.01 mmol), (prepared as described for the starting material in Example 1), and diethyl azodicarboxylate (1.31 ml, 8.36 mmol). After stirring for 2 hours at ambient temperature, the volatiles were removed under vacuum. The residue was purified by column chromatography eluting with methylene chloride/methanol (2/98). After removal of the solvent by evaporation, the residue was triturated with ether, collected by filtration, washed with ether and dried under vacuum to give 7-(1-(tert-butoxycarbonyl)piperidin-4-ylmethoxy)-4-(2-fluoro-4-methylanilino)-6-methoxyquinazoline (327 mg, 20%).

reactant | Triphenylphosphine | 8.36 mmol, 2.19 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-(2-fluoro-4-methylanilino)-7-hydroxy-6-methoxyquinazoline | 3.34 mmol, 1 g | FC1=C(NC2=NC=NC3=CC(=C(C=C23)OC)O)C=CC(=C1)C | C16H14FN3O2
reactant | 1-(tert-butoxycarbonyl)-4-hydroxymethylpiperidine | 5.01 mmol, 1.08 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CO | C11H21NO3
reactant | diethyl azodicarboxylate | 8.36 mmol, 1.31 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 7-(1-(tert-butoxycarbonyl)piperidin-4-ylmethoxy)-4-(2-fluoro-4-methylanilino)-6-methoxyquinazoline | 327 mg, 20% | C(C)(C)(C)OC(=O)N1CCC(CC1)COC1=C(C=C2C(=NC=NC2=C1)NC1=C(C=C(C=C1)C)F)OC | C27H33FN4O4
